US05866579
5,6-Dihydro-7,7-Dimethyl-3-nitro-cyclopenta[b]pyridine.
A mixture of 1-methyl-3,5-dinitro-2-pyridone (0.8 g, 4.0 mmol), 2,2-dimethyl-cyclopentanone (0.45 g, 4.0 mmol) and ammonia solution (2.0M) in methanol (40 mL) was refluxed overnight. The solvent was removed in vacuo and the residue was dissolved in ethyl acetate. The soluble portion was flash chromatographed over silica gel (eluent 90:10 v/v ethyl acetate-hexane) to give a yellow solid (0.183 g, 24% yield).

reactant | 1-methyl-3,5-dinitro-2-pyridone | 4.0 mmol, 0.8 g | CN1C(C(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-])=O | C6H5N3O5
reactant | 2,2-dimethyl-cyclopentanone | 4.0 mmol, 0.45 g | CC1(C(CCC1)=O)C | C7H12O
reactant | ammonia | 2.0M | N | H3N
solvent | methanol | 40 mL | CO | CH4O
product | 5,6-Dihydro-7,7-Dimethyl-3-nitro-cyclopenta[b]pyridine | 0.183 g, 24% yield | CC1(CCC=2C1=NC=C(C2)[N+](=O)[O-])C | C10H12N2O2
